US08497278B2
N-((6-chloro-2-phenylimidazo[1,2-a]pyridin-3-yl)methyl)-4,6-difluoropyrimidin-2-amine (168)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 6-chloro-3-(chloromethyl)-2-phenylimidazo[1,2-a]pyridine hydrochloride and 4,6-difluoropyrimidin-2-amine. ((0.26 g, 43% yield), M/e+ 372.2 for C18H12ClF2N5 (M+H)+.

reactant | 6-chloro-3-(chloromethyl)-2-phenylimidazo[1,2-a]pyridine hydrochloride | Cl.ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=CC=C2)CCl
reactant | 4,6-difluoropyrimidin-2-amine | FC1=NC(=NC(=C1)F)N | C4H3F2N3
product | N-((6-chloro-2-phenylimidazo[1,2-a]pyridin-3-yl)methyl)-4,6-difluoropyrimidin-2-amine | 43% yield | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=CC=C2)CNC2=NC(=CC(=N2)F)F | C18H12ClF2N5
